US03939166
4-Chloro-7-nitro-5-cyano-2-trifluoromethylbenzimidazole is reacted with the sodium derivative of 1-octanol to obtain 4-octyloxy-7-nitro--cyano-2-trifluoromethylbenzimidazole, m.w., 384.4.

reactant | 4-Chloro-7-nitro-5-cyano-2-trifluoromethylbenzimidazole | ClC1=C(C=C(C=2N=C(NC21)C(F)(F)F)[N+](=O)[O-])C#N | C9H2ClF3N4O2
reactant | sodium | [Na] | Na
reactant | 1-octanol | C(CCCCCCC)O | C8H18O
product | 4-octyloxy-7-nitro--cyano-2-trifluoromethylbenzimidazole | C(CCCCCCC)OC1=C(C=C(C=2N=C(NC21)C(F)(F)F)[N+](=O)[O-])C#N | C17H19F3N4O3
